US06228861B1
c) 6-(3,4,5-Trifluorophenyl)-1,6-dihydro-2-methoxy -5-acetyl-4-methyl-1-[(4-nitrophenyloxy) carbonyl]pyrimidine
To a solution of 6-(3,4,5-trifluorophenyl)-1,6-dihydro-2-methoxy-5-acetyl-4-methylpyrimidine (2.8 g, 9.38 mmol) and pyridine (10 mL) in CH2Cl2 (200 mL) at 0-5° C. was added 4-nitrophenyl chloroformate (1.886 g, 9.38 mmol) and the mixture was allowed to warm to room temperature. After 12 hours solvent was evaporated and the residue was purified by flash column chromatography (SiO2, dichloromethane/EtOAc, 10%-15%) to obtain the product as a white powder (4.0 g, 92%).

reactant | 6-(3,4,5-trifluorophenyl)-1,6-dihydro-2-methoxy-5-acetyl-4-methylpyrimidine | 9.38 mmol, 2.8 g | FC=1C=C(C=C(C1F)F)C1C(=C(N=C(N1)OC)C)C(C)=O | C14H13F3N2O2
reactant | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
reactant | 4-nitrophenyl chloroformate | 9.38 mmol, 1.886 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | 6-(3,4,5-Trifluorophenyl)-1,6-dihydro-2-methoxy -5-acetyl-4-methyl-1-[(4-nitrophenyloxy) carbonyl]pyrimidine | 4.0 g, 92% | FC=1C=C(C=C(C1F)F)C1C(=C(N=C(N1C(=O)OC1=CC=C(C=C1)[N+](=O)[O-])OC)C)C(C)=O | C21H16F3N3O6
